US08420634B2
3-amino-2H-1,4-benzothiazine
A mixture of 2-aminothiophenol (1.6 ml, 15 mmol) in 25% NaOH (10 ml) and chloroacetonitrile (0.95 ml, 15 mmol) in CH2Cl2 (20 ml) is stirred at room temperature for 20 hours, in the presence of tetrabutylammonium hydrogensulphate (0.51 g, 1.5 mmol). The organic phase is then separated, washed with H2O, dried over Na2SO4 and concentrated. The residue is taken up with 5% HCl/EtOH (20 ml) and the resulting solution refluxed for 2 hours. The solvent is evaporated under vacuum and the resulting solid taken up in H2O then washed with CHCl3, basified with NH4OH and the precipitate obtained extracted with CHCl3. The organic phase is dried over Na2SO4 and concentrated. The residue is purified by chromatography through silica, eluting with AcOEt/Triethylamine (8:2). The product is obtained as a yellowish solid, with a yield of 32%. Recrystallisation from ethyl acetate gives the product with an m.p. of 168-172° C., 1H-NMR (CDCl3): 3.18 (s, 2H), 4.38 (br s, 2H), 6.89-7.25 (m, 4H). MS (ESI): m/z 165 (M+H+). MS (ESI): m/z 165 (M+H+). The product is more stable as the oxalate salt, white solid m.p. 182-184° C.

reactant | 2-aminothiophenol | 15 mmol, 1.6 ml | NC1=C(C=CC=C1)S | C6H7NS
reactant | chloroacetonitrile | 15 mmol, 0.95 ml | ClCC#N | C2H2ClN
solvent | NaOH | 10 ml | [OH-].[Na+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium hydrogensulphate | 1.5 mmol, 0.51 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-amino-2H-1,4-benzothiazine | yield of 32% | NC=1CSC2=C(N1)C=CC=C2 | C8H8N2S
